US08193199B2
1-(5-Chloro-2-(pyridin-2-yl)quinolin-3-yl)ethanamine
2-(1-(5-Chloro-2-(pyridin-2-yl)quinolin-3-yl)ethyl)isoindoline-1,3-dione (220 mg, 532 μmol) was added to EtOH. To the resulting slurry was added hydrazine hydrate (133 μl, 2658 μmol) and the mixture was heated in an oil bath at 80° C. for 3 h. The reaction mixture was cooled to room temperature, filtered, and rinsed with EtOH (10 mL). The filtrate was acidified with 1.0 N HCl (˜5 mL) and concentrated on the rotavap to remove ethanol. A minor amount of solid precipitated and was removed by filtration. The filtrate was neutralized with solid sodium carbonate and extracted (2×) with DCM:IPA (4:1). The organic extracts were dried with sodium sulfate, filtered and concentrated to obtain 103 mg (68%) of a solid/film. LC-MS (+esi, M+H+=284.0). 1H NMR (400 MHz, DICHLOROMETHANE-d2) δ ppm 1.42 (d, J=6.65 Hz, 3H) 4.71 (q, J=6.65 Hz, 1H) 7.38-7.42 (m, 1H) 7.60-7.68 (m, 2H) 7.88-7.97 (m, 2H) 8.02 (dq, J=7.78, 0.80 Hz, 1H) 8.68-8.71 (m, 1H) 8.82 (t, J=0.78 Hz, 1H). LC-MS (+esi, M+H+=284.0).

reactant | 2-(1-(5-Chloro-2-(pyridin-2-yl)quinolin-3-yl)ethyl)isoindoline-1,3-dione | 532 μmol, 220 mg | ClC1=C2C=C(C(=NC2=CC=C1)C1=NC=CC=C1)C(C)N1C(C2=CC=CC=C2C1=O)=O | C24H16ClN3O2
reactant | hydrazine hydrate | 2658 μmol, 133 μl | O.NN
solvent | EtOH | CCO | C2H6O
product | 1-(5-Chloro-2-(pyridin-2-yl)quinolin-3-yl)ethanamine | 103 mg, 68% | ClC1=C2C=C(C(=NC2=CC=C1)C1=NC=CC=C1)C(C)N | C16H14ClN3
